US07868003B2
3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidin-2-one
Analogously to example 45a), (R)-2-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinolin-4-yl)phenylamine (300 mg, enantiomer B, preparation as described in WO2004085404) was reacted with 2-chloroethyl chloroformate (140 mg). 400 mg of the desired product were obtained.

reactant | (R)-2-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydro-isoquinolin-4-yl)phenylamine | 300 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N | C16H16Cl2N2
reactant | 2-chloroethyl chloroformate | 140 mg | ClC(=O)OCCCl | C3H4Cl2O2
product | 3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-oxazolidin-2-one | 400 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(OCC1)=O | C19H18Cl2N2O2
